### PR TITLE
[Merged by Bors] - feat: generalize `FiniteDimensional.finrank_mul_finrank`

### PR DESCRIPTION
**Pull request by alreadydone**
Generalize the conditions of the tower law [FiniteDimensional.finrank_mul_finrank'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Tower.html#FiniteDimensional.finrank_mul_finrank') in FieldTheory/Tower from `[CommRing F] [Algebra F K]` to `[Ring F] [Module F K]`, and remove the `[Module.Finite F K]` and `[Module.Finite K A]` conditions.

The generalized version applies to situations when we have a tower C/B/A where the A-module structure on C is induced from the B-module structure via a RingHom from A to B, and the A-module structure on B is induced by the same RingHom. In particular, it applies when the A-module structure on B and the B-module structure on C come from two RingHoms, and the A-module structure on C comes from the composition of them, regardless of whether A and B are commutative or not.

As prerequisites, I also generalized lemmas originally introduced by @kckennylau in [mathlib3#3355](https://github.com/leanprover-community/mathlib/pull/3355/files) to prove the tower law. They were split into three PRs:

+ LinearAlgebra/Span #9380: add `span_eq_closure` and `closure_induction` which say that `Submodule.span R s` is generated by `R • s` as an AddSubmonoid. I feel that the existing `span_induction` should be replaced by `closure_induction` as the latter is stronger, and allow us to remove the commutativity condition in `span_smul_of_span_eq_top` in Algebra/Tower.

+ Algebra/Tower #9382: switching from CommSemiring/Algebra to Semiring/Module here requires proving the curious lemma `IsScalarTower.isLinearMap` which states that for a tower of modules A/S/R, any S-linear map from S to A is also R-linear. If the map is injective, we can deduce that S/S/R also form a tower. (By `ringHomEquivModuleIsScalarTower` in #9381, there is therefore a canonical RingHom from R to S.)

+ Lemmas for free modules over rings including `finrank_mul_finrank'` are moved from FieldTheory/Tower to LinearAlgebra/Dimension/Free

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Puzzle.3A.20noncommutative.20RingHom.20as.20typeclasses/near/407347711)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Basic.lean [hunk 1]
```diff
@@ -332,6 +332,21 @@ def RingHom.toModule [Semiring R] [Semiring S] (f : R →+* S) : Module R S :=
...
+  such that S/S/R forms a scalar tower. -/
+def ringHomEquivModuleIsScalarTower [Semiring R] [Semiring S] :
+    (R →+* S) ≃ {inst : Module R S // IsScalarTower R S S} where
+  toFun f := let m := Module.compHom S f; ⟨m, ⟨fun r ↦ mul_assoc (f r)⟩⟩
+  invFun := fun ⟨_, _⟩ ↦
+    { toFun := fun r ↦ r • 1
+      map_zero' := zero_smul R 1
+      map_one' := one_smul R 1
+      map_add' := (add_smul · · 1)
+      map_mul' := fun r r' ↦ by simp_rw [← smul_eq_mul, smul_assoc, one_smul] }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Basic.lean:345]: We already have `smulOneHom`; can you rename it to `MonoidHom.smulOneHom` and extract what you have here to `RingHom.smulOneHom`?

File: Mathlib/LinearAlgebra/Span.lean [hunk 2]
```diff
@@ -150,6 +150,24 @@ theorem span_induction {p : M → Prop} (h : x ∈ span R s) (Hs : ∀ x ∈ s,
...
+  · rw [smul_zero]; apply zero_mem
+  · intro m m' hm hm'; rw [smul_add]; exact add_mem hm hm'
+
+@[elab_as_elim]
+theorem closure_induction {p : M → Prop} (h : x ∈ span R s) (H0 : p 0)
+    (H1 : ∀ x y, p x → p y → p (x + y)) (H2 : ∀ a : R, ∀ x ∈ s, p (a • x)) : p x := by
+  rw [← mem_toAddSubmonoid, span_eq_closure] at h
+  refine AddSubmonoid.closure_induction h ?_ H0 H1
+  rintro _ ⟨r, m, -, hm, rfl⟩
+  exact H2 r m hm
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Span.lean:169]: Isn't this `span_induction`?

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Span.lean:169]: This one only need the R-multiples of elements in the generating set to satisfy the predicate, rather than R-multiples of all elements satisfying the predicate. The conditions are easier to verify when proving `span_smul_of_span_eq_top`. (I'm not aware of a way proving it without the commutativity assumption without going through `closure_induction`.)

File: Mathlib/Algebra/Module/Basic.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Basic.lean:345]: Good to know, will do!

**Comment by riccardobrasca** [comment]
@erdOne Is this related to what you are doing?

**Comment by erdOne** [comment]
No, but this is probably yet another misplaced lemma.

File: Mathlib/Algebra/Module/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Module/Basic.lean:345]: Mind spinning this out to a helper PR?

**Comment by alreadydone** [comment]
Yeah the lemma `cardinal_lift_le_rank_of_linearIndependent` directly follows from the definition, so it probably should be placed right below the def. I've now used a corollary of it (`LinearIndependent.finrank_eq_zero_of_infinite`) to remove StrongRankCondition from the series of lemmas starting from [finrank_eq_zero_of_basis_imp_not_finite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Finrank.html#finrank_eq_zero_of_basis_imp_not_finite). Maybe the change is also in your PR? I haven't got time to look it through yet.

File: Mathlib/Algebra/Module/Basic.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Basic.lean]: Is that necessary? Only about 10 lines in total ... (see [this commit](https://github.com/leanprover-community/mathlib4/pull/9046/commits/39a958e6f2dfb597602d713c41279f409401e2ac))

**Comment by erdOne** [comment]
I assumed `StrongRankCondition R` almost everywhere so probably not.

File: Mathlib/Algebra/Module/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Module/Basic.lean]: Done in #9064

File: Mathlib/LinearAlgebra/Pi.lean [hunk 3]
```diff
@@ -105,6 +105,11 @@ theorem iInf_ker_proj : (⨅ i, ker (proj i : ((i : ι) → φ i) →ₗ[R] φ i
       exact (mem_bot _).2 (funext fun i => h i)
 #align linear_map.infi_ker_proj LinearMap.iInf_ker_proj
 
+instance LinearMap.CompatibleSMul.pi (R S M N ι : Type*) [Semiring S]
+     [AddCommMonoid M] [AddCommMonoid N] [SMul R M] [SMul R N] [Module S M] [Module S N]
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Pi.lean:109]:
```suggestion
    [AddCommMonoid M] [AddCommMonoid N] [SMul R M] [SMul R N] [Module S M] [Module S N]
```

**Comment by alreadydone** [comment]
!bench

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 4]
```diff
@@ -117,6 +117,13 @@ def _root_.SMulHomClass.toMulActionHom [SMul M X] [SMul M Y] [SMulHomClass F M X
 instance [SMul M X] [SMul M Y] [SMulHomClass F M X Y] : CoeTC F (X →[M] Y) :=
   ⟨SMulHomClass.toMulActionHom⟩
 
+variable (M' X Y F) in
+/-- If Y/X/M' forms a scalar tower, any map X → Y preserving X-action also preserves M-action. -/
+def _root_.IsScalarTower.smulHomClass [MulOneClass X] [SMul X Y] [IsScalarTower M' X Y]
+    [SMulHomClass F X X Y] : SMulHomClass F M' X Y where
+  map_smul f m x := by
+    rw [← mul_one (m • x), ← smul_eq_mul, map_smul, smul_assoc, ← map_smul, smul_eq_mul, mul_one]
```
Comment (alreadydone) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:125]: Not sure why this can't be an instance?

**Review by alreadydone — COMMENTED** [review]
I believe this PR has reached its final form! Just merged in #9064

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:125]: I believe it is because they are outparams?

Comment (alreadydone) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:125]: Okay I think I get how it works: one F is supposed to correspond to one M' only. Not very flexible! X and Y certainly should be outParams but maybe M' could be an autoParam instead?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 5]
```diff
@@ -117,6 +117,13 @@ def _root_.SMulHomClass.toMulActionHom [SMul M X] [SMul M Y] [SMulHomClass F M X
 instance [SMul M X] [SMul M Y] [SMulHomClass F M X Y] : CoeTC F (X →[M] Y) :=
   ⟨SMulHomClass.toMulActionHom⟩
 
+variable (M' X Y F) in
+/-- If Y/X/M' forms a scalar tower, any map X → Y preserving X-action also preserves M-action. -/
```
Comment (alreadydone) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:121]:
```suggestion
/-- If Y/X/M forms a scalar tower, any map X → Y preserving X-action also preserves M-action. -/
```

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/GroupTheory/GroupAction/Hom.lean]: Does autoParam work in instances? Anyway I think such instances are probably out of scope of what `SMulHomClass` was trying to achieve.

File: Mathlib/LinearAlgebra/Span.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/Span.lean:169]: Maybe put your explanation into a docstring?

File: Mathlib/RingTheory/AlgebraTower.lean [hunk 6]
```diff
@@ -128,10 +128,23 @@ theorem linearIndependent_smul {ι : Type v₁} {b : ι → S} {ι' : Type w₁}
...
+theorem Basis.isScalarTower_finsupp {ι} (b : Basis ι S A) : IsScalarTower R S (ι →₀ S) :=
+  b.repr.symm.isScalarTower_of_injective R b.repr.symm.injective
+
+variable {R}
+
 /-- `Basis.SMul (b : Basis ι R S) (c : Basis ι S A)` is the `R`-basis on `A`
 where the `(i, j)`th basis vector is `b i • c j`. -/
 noncomputable def Basis.smul {ι : Type v₁} {ι' : Type w₁} (b : Basis ι R S) (c : Basis ι' S A) :
     Basis (ι × ι') R A :=
+  haveI := c.isScalarTower_finsupp R
```
Comment (erdOne) [inline Mathlib/RingTheory/AlgebraTower.lean:147]: What's with these regressions? (also the `rfl` below and the instance in `Mathlib/RingTheory/Kaehler.lean`)

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraTower.lean:147]: This is a generalization (from CommSemiring/Algebra to Ring/Module), not a regression. The need of an additional rfl below is strange though.

File: Mathlib/RingTheory/Kaehler.lean [hunk 7]
```diff
@@ -511,6 +511,7 @@ theorem KaehlerDifferential.kerTotal_mkQ_single_algebraMap_one (x) : (x𝖣1) =
 #align kaehler_differential.ker_total_mkq_single_algebra_map_one KaehlerDifferential.kerTotal_mkQ_single_algebraMap_one
 
 theorem KaehlerDifferential.kerTotal_mkQ_single_smul (r : R) (x y) : (y𝖣r • x) = r • y𝖣x := by
+  letI : SMulZeroClass R S := inferInstance
   rw [Algebra.smul_def, KaehlerDifferential.kerTotal_mkQ_single_mul,
     KaehlerDifferential.kerTotal_mkQ_single_algebraMap, add_zero, ← LinearMap.map_smul_of_tower,
     Finsupp.smul_single, mul_comm, Algebra.smul_def]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Kaehler.lean:517]: This regression is strange. Somehow after `rw [← LinearMap.map_smul_of_tower]`, Lean suddenly needs to be reminded of the SMulZeroClass instance, otherwise it can't `rw Finsupp.smul_single`. `map_smul_of_tower` consumes a `LinearMap.CompatibleSMul` instance, so maybe due to the new instances introduced, the rw produces a syntactically slightly different result. I think it's a pretty well-known bug that Lean has trouble inferring weaker instances from stronger ones, e.g. Algebra to Module to SMul. (Maybe it matters whether the stronger `extend`s the weaker one?)

File: Mathlib/LinearAlgebra/Span.lean [hunk 8]
```diff
@@ -150,6 +150,24 @@ theorem span_induction {p : M → Prop} (h : x ∈ span R s) (Hs : ∀ x ∈ s,
...
+    (fun x hx ↦ subset_closure ⟨1, x, trivial, hx, one_smul R x⟩)
+    (zero_mem _) (fun _ _ ↦ add_mem) fun r m hm ↦ closure_induction hm ?_ ?_ ?_) (closure_le.2 ?_)
+  · rintro _ ⟨r, m, -, hm, rfl⟩; exact smul_mem _ _ (subset_span hm)
+  · rintro _ ⟨r', m, -, hm, rfl⟩; exact subset_closure ⟨r * r', m, trivial, hm, mul_smul r r' m⟩
+  · rw [smul_zero]; apply zero_mem
+  · intro m m' hm hm'; rw [smul_add]; exact add_mem hm hm'
+
+@[elab_as_elim]
+theorem closure_induction {p : M → Prop} (h : x ∈ span R s) (H0 : p 0)
+    (H1 : ∀ x y, p x → p y → p (x + y)) (H2 : ∀ a : R, ∀ x ∈ s, p (a • x)) : p x := by
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Span.lean:165]:
```suggestion
/-- A variant of `span_induction` that combines `∀ x ∈ s, p x` and `∀ r x, p x → p (r • x)`
into a single condition `∀ r, ∀ x ∈ s, p (r • x)`, which can be easier to verify. -/
@[elab_as_elim]
theorem closure_induction {p : M → Prop} (h : x ∈ span R s) (H0 : p 0)
    (H1 : ∀ x y, p x → p y → p (x + y)) (H2 : ∀ r : R, ∀ x ∈ s, p (r • x)) : p x := by
```

File: Mathlib/RingTheory/Kaehler.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler.lean:517]: Does it timeout or fail?

Comment (alreadydone) [reply Mathlib/RingTheory/Kaehler.lean:517]: I think it's a fail (says it can't synthesize `SMulZeroClass R S`)

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/GroupAction/Hom.lean]: Thanks indeed the docs for [autoParam](https://leanprover-community.github.io/mathlib4_docs/Init/Meta.html#autoParam) says it won't affect typeclass resolution like optParam.

File: Mathlib/RingTheory/Kaehler.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler.lean:517]: That is strange. The well-known bug (that I know of) just times out.

Comment (alreadydone) [reply Mathlib/RingTheory/Kaehler.lean:517]: I think the three instance reminders [here](https://github.com/leanprover-community/mathlib4/blob/8aa9689f0e48c6fcf9b3ad6846b722c13b7fcd53/Mathlib/RingTheory/IntegralClosure.lean#L855-L862) are all failures.

Comment (erdOne) [reply Mathlib/RingTheory/Kaehler.lean:517]: The comment says it times out though. Anyways I'm still waiting for the cache so I can check it out myself.

Comment (alreadydone) [reply Mathlib/RingTheory/Kaehler.lean:517]: Sorry, I just checked and you're right; all those three instances come with a
> (deterministic) timeout at 'typeclass', maximum number of heartbeats (20000) has been reached (use 'set_option synthInstance.maxHeartbeats <num>' to set the limit)

message, while this timeout in Kaehler does not.

Comment (alreadydone) [reply Mathlib/RingTheory/Kaehler.lean:517]: I just compared the context and the goal state after `rw [← LinearMap.map_smul_of_tower]` on master against this PR, with pp.all turned on. It turns out they are completely identical, so I'm puzzled why Lean suddenly needs the reminder ...

File: Mathlib/LinearAlgebra/Span.lean [hunk 9]
```diff
@@ -150,6 +150,26 @@ theorem span_induction {p : M → Prop} (h : x ∈ span R s) (Hs : ∀ x ∈ s,
...
+    (zero_mem _) (fun _ _ ↦ add_mem) fun r m hm ↦ closure_induction hm ?_ ?_ ?_) (closure_le.2 ?_)
+  · rintro _ ⟨r, m, -, hm, rfl⟩; exact smul_mem _ _ (subset_span hm)
+  · rintro _ ⟨r', m, -, hm, rfl⟩; exact subset_closure ⟨r * r', m, trivial, hm, mul_smul r r' m⟩
+  · rw [smul_zero]; apply zero_mem
+  · intro m m' hm hm'; rw [smul_add]; exact add_mem hm hm'
+
+/-- A variant of `span_induction` that combines `∀ x ∈ s, p x` and `∀ r x, p x → p (r • x)`
+into a single condition `∀ r, ∀ x ∈ s, p (r • x)`, which can be easier to verify. -/
+@[elab_as_elim]
+theorem closure_induction {p : M → Prop} (h : x ∈ span R s) (H0 : p 0)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Span.lean:166]: Can you write the dependent version instead, since that one works with the `induction` tactic?

File: Mathlib/LinearAlgebra/Pi.lean [hunk 10]
```diff
@@ -105,6 +105,11 @@ theorem iInf_ker_proj : (⨅ i, ker (proj i : ((i : ι) → φ i) →ₗ[R] φ i
       exact (mem_bot _).2 (funext fun i => h i)
 #align linear_map.infi_ker_proj LinearMap.iInf_ker_proj
 
+instance CompatibleSMul.pi (R S M N ι : Type*) [Semiring S]
+    [AddCommMonoid M] [AddCommMonoid N] [SMul R M] [SMul R N] [Module S M] [Module S N]
+    [LinearMap.CompatibleSMul M N R S] : LinearMap.CompatibleSMul M (ι → N) R S where
+  map_smul f r m := by ext i; apply ((LinearMap.proj i).comp f).map_smul_of_tower
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Pi.lean:112]: I'm somewhat skeptical of the value of these instances, or even of the `LinearMap.CompatibleSMul` typeclass itself. Are they actually needed by this PR?

File: Mathlib/LinearAlgebra/Span.lean (hunk 9 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Span.lean:166]: Sure, will do! Bu why can't `induction` work with non-dependent versions?

File: Mathlib/LinearAlgebra/Pi.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Pi.lean:112]: It's needed in (the generalization of) `Basis.smul`, which depends on `Basis.isScalarTower_finsupp`, which depends on `isScalarTower_of_injective`, which consumes a `LinearMap.CompatibleSMul` instance that is supplied by `LinearMap.CompatibleSMul.finsupp_dom` together with `IsScalarTower.compatibleSMul'`. `finsupp_cod` and this one (`.pi`) are not used, but I think there is no harm according to the benchmark. Probably there isn't much (or any) instances that consumes CompatibleSMul but doesn't also output CompatibleSMul?

File: Mathlib/RingTheory/Kaehler.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler.lean:517]: I looked into it myself and it seems like some strange bug in the synthesizer that is probably not this PR's fault.

File: Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean [hunk 11]
```diff
@@ -327,45 +327,48 @@ theorem basisUnique_repr_eq_zero_iff {ι : Type*} [Unique ι]
     fun hv => by rw [hv, LinearEquiv.map_zero, Finsupp.zero_apply]⟩
 #align finite_dimensional.basis_unique.repr_eq_zero_iff FiniteDimensional.basisUnique_repr_eq_zero_iff
 
-theorem cardinal_mk_le_finrank_of_linearIndependent [Module.Finite R V]
+end FiniteDimensional
+
+namespace LinearIndependent
+
+theorem cardinal_mk_le_finrank [Module.Finite R V]
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean:334]: Similar to a [previous commit](https://github.com/leanprover-community/mathlib4/pull/9046/commits/0478370c1e2c9c6212f8f714fd2503f7094c80ad) I've changed lemma names to make available LinearIndependent dot notations in this file as well (including some new lemmas introduced by @erdOne in #8872). If I split these as a dependent PR it could reduce "files changed" by 4~5 files.

Comment (alreadydone) [reply Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean:334]: Opened #9144
@eric-wieser Do you think I need to split this PR further down?

File: Mathlib/RingTheory/Kaehler.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Kaehler.lean:517]: Maybe you've seen it, but in case not, let me mention that I tried to add shortcut instances over subobjects (IntermediateField in this case) in #9291 and they have been effective in avoiding the timeouts or manual `haveI/letI`s.

**Comment by alreadydone** [comment]
Since there has been inaction on this PR, I'm splitting this into smaller PRs in the hope that other reviewers might more easily weigh in.

**Comment by alreadydone** [comment]
Thanks to @jcommelin for merging to dependency PRs; now this PR reduces to two files and is therefore marked easy.

File: Mathlib/FieldTheory/Tower.lean [hunk 12]
```diff
@@ -66,31 +65,29 @@ theorem lift_rank_mul_lift_rank :
...
+    [Module K A] [Module F A] [IsScalarTower F K A] [Module.Free K A] :
     Module.rank F K * Module.rank K A = Module.rank F A := by
   convert lift_rank_mul_lift_rank F K A <;> rw [lift_id]
 #align rank_mul_rank rank_mul_rank
 
 /-- Tower law: if `A` is a `K`-module and `K` is an extension of `F` then
 $\operatorname{rank}_F(A) = \operatorname{rank}_F(K) * \operatorname{rank}_K(A)$. -/
-theorem FiniteDimensional.finrank_mul_finrank' [Module.Finite F K]
-    [Module.Finite K A] : finrank F K * finrank K A = finrank F A := by
+theorem FiniteDimensional.finrank_mul_finrank' : finrank F K * finrank K A = finrank F A := by
```
Comment (erdOne) [inline Mathlib/FieldTheory/Tower.lean:76]: Is `[Module.Finite F K]` still there? If not, maybe remove `finrank_mul_finrank`?

File: Mathlib/FieldTheory/Tower.lean [hunk 13]
```diff
@@ -41,12 +41,11 @@ variable (F : Type u) (K : Type v) (A : Type w)
 
 section Ring
```
Comment (erdOne) [inline Mathlib/FieldTheory/Tower.lean:42]: I think this section should go into `Mathlib.LinearAlgebra.Dimension.Free` (Or `Mathlib.LinearAlgebra.Dimension.Constructions`)  if possible

File: Mathlib/FieldTheory/Tower.lean [hunk 14]
```diff
@@ -116,11 +117,6 @@ theorem right [hf : FiniteDimensional F A] : FiniteDimensional K A :=
     exact Submodule.subset_span⟩⟩
 #align finite_dimensional.right FiniteDimensional.right
 
-/-- Tower law: if `A` is a `K`-vector space and `K` is a field extension of `F` then
-`dim_F(A) = dim_F(K) * dim_K(A)`. -/
-theorem finrank_mul_finrank : finrank F K * finrank K A = finrank F A := finrank_mul_finrank' F K A
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Tower.lean]: `finrank_mul_finrank'` is strictly more general as you can see from this proof. I removed `finrank_mul_finrank` and gave its name to the old `finrank_mul_finrank'`.

Comment (alreadydone) [reply Mathlib/FieldTheory/Tower.lean]: Unfortuantely, removing `finrank_mul_finrank` led to typeclass synthesization failure, so I forced pushed to revert the commit.

File: Mathlib/FieldTheory/Tower.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Tower.lean]: Done in https://github.com/leanprover-community/mathlib4/pull/9046/commits/b41ec17eb5639f421881efaea4ffb07d16c9b940

File: Mathlib/FieldTheory/Tower.lean (hunk 14 above)
Comment (erdOne) [reply Mathlib/FieldTheory/Tower.lean]: I think we should investigate what happened at the synthesization failure rather than keeping duplicated lemmas.

Comment (erdOne) [reply Mathlib/FieldTheory/Tower.lean]: Or at least replace this with a scarier name and point to the primed version in the docstring.
(maybe that should be unprimed and this be called something like `finrank_mul_finrank_of_field`)

Comment (alreadydone) [reply Mathlib/FieldTheory/Tower.lean]: The failure was [here](https://github.com/leanprover-community/mathlib4/actions/runs/7437424982/job/20235046209):
```
[3992/4084] Buildierror: > LEAN_PATH=./.lake/packages/std/.lake/build/lib:./.lake/packages/Qq/.lake/build/lib:./.lake/packages/aesop/.lake/build/lib:./.lake/packages/proofwidgets/.lake/build/lib:./.lake/packages/Cli/.lake/build/lib:./.lake/build/lib LD_LIBRARY_PATH=./.lake/build/lib /home/lean/.elan/toolchains/leanprover--lean4---v4.5.0-rc1/bin/lean -Dpp.unicode.fun=true -Dpp.proofs.withType=false -DautoImplicit=false -DrelaxedAutoImplicit=false ./././Mathlib/FieldTheory/PolynomialGaloisGroup.lean -R ././. -o ./.lake/build/lib/Mathlib/FieldTheory/PolynomialGaloisGroup.olean -i ./.lake/build/lib/Mathlib/FieldTheory/PolynomialGaloisGroup.ilean -c ./.lake/build/ir/Mathlib/FieldTheory/PolynomialGaloisGroup.c
error: stdout:
Error: ./././Mathlib/FieldTheory/PolynomialGaloisGroup.lean:425:10: error: failed to synthesize
  AddCommGroup ↥F⟮α⟯
(deterministic) timeout at 'typeclass', maximum number of heartbeats (20000) has been reached (use 'set_option synthInstance.maxHeartbeats <num>' to set the limit)
```
the line is `rw [← FiniteDimensional.finrank_mul_finrank F F⟮α⟯ p.SplittingField,`
I guess it's the well-known problem that Lean fails to synthesize `AddCommGroup F⟮α⟯` from stronger classes for subojbects like `F⟮α⟯`. It looks for `AddCommGroup` because there's a `Module.Free` condition in `finrank_mul_finrank'` which is not present (automatic) in `finrank_mul_finrank`. I'll add a docstring to explain this.

File: Mathlib/FieldTheory/Tower.lean [hunk 15]
```diff
@@ -119,19 +73,12 @@ theorem right [hf : FiniteDimensional F A] : FiniteDimensional K A :=
...
-`dim_F(A) = dim_F(K) * dim_K(A)`.
-
-This is `FiniteDimensional.finrank_mul_finrank'` with one fewer finiteness assumption. -/
-theorem finrank_mul_finrank [FiniteDimensional F K] : finrank F K * finrank K A = finrank F A := by
-  by_cases hA : FiniteDimensional K A
-  · replace hA : FiniteDimensional K A := hA -- porting note: broken instance cache
-    rw [finrank_mul_finrank']
-  · rw [finrank_of_infinite_dimensional hA, mul_zero, finrank_of_infinite_dimensional]
-    exact mt (@right F K A _ _ _ _ _ _ _) hA
+`dim_F(A) = dim_F(K) * dim_K(A)`. -/
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Tower.lean:76]:
```suggestion
`dim_F(A) = dim_F(K) * dim_K(A)`. 
  A special case of `FiniteDimensional.finrank_mul_finrank'` which assumes `Module.Free`.
We keep this because Lean sometimes has trouble finding the `Module.Free` instances. -/
```

File: Mathlib/FieldTheory/Tower.lean (hunk 14 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Tower.lean]: > (maybe that should be unprimed and this be called something like finrank_mul_finrank_of_field)

I think I'd rather rename `finrank_mul_finrank'` to `finrank_mul_finrank_of_free`. Would you like me to do that?

Comment (erdOne) [reply Mathlib/FieldTheory/Tower.lean]: couldn't a `letI` or a `maxHeartbeat` fix that?
I still think the ring version should be the main lemma as it is strictly more general and mirrors `rank_mul_rank`.

Comment (alreadydone) [reply Mathlib/FieldTheory/Tower.lean]: Okay, I'm [trying this again](https://github.com/leanprover-community/mathlib4/pull/9046/commits/f87e8a4383095ab8f9fab65adb9cccac6979b3de) by fixing the timeout with `letI _ : AddCommGroup F⟮α⟯ := Ring.toAddCommGroup`. Hopefully no other errors pop up. But why not keep a lemma that is easier to use (can be used with less manual instances)?

Comment (erdOne) [reply Mathlib/FieldTheory/Tower.lean]: First of all it shouldn't have needed manual instances. It is a bug and hopefully will be fixed.
Second, I'm not totally against such duplication, but like `FiniteDimensional.finrank_eq_rank'`, but I think the duplication should be primed and the docstring should clearly say that it is a duplication for performance reasons.

File: Mathlib/FieldTheory/PolynomialGaloisGroup.lean [hunk 16]
```diff
@@ -422,6 +422,7 @@ theorem prime_degree_dvd_card [CharZero F] (p_irr : Irreducible p) (p_deg : p.na
   have hα : IsIntegral F α := .of_finite F α
   use FiniteDimensional.finrank F⟮α⟯ p.SplittingField
   suffices (minpoly F α).natDegree = p.natDegree by
+    letI _ : AddCommGroup F⟮α⟯ := Ring.toAddCommGroup
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/PolynomialGaloisGroup.lean:425]: Can you add a comment saying that sooner or later this line should be removed?

File: Mathlib/FieldTheory/Galois.lean [hunk 17]
```diff
@@ -420,8 +420,9 @@ theorem of_separable_splitting_field [sp : p.IsSplittingField F E] (hp : p.Separ
   intro K x hx hK
   simp only at *
   -- Porting note: need to specify two implicit arguments of `finrank_mul_finrank`
-  rw [of_separable_splitting_field_aux hp K (Multiset.mem_toFinset.mp hx), hK,
-    @finrank_mul_finrank _ _ _ _ _ _ _ K⟮x⟯.module _ K⟮x⟯.isScalarTower _]
+  letI := K⟮x⟯.module
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois.lean:423]: Can you add a comment saying that sooner or later those lines should be removed?

File: Mathlib/LinearAlgebra/Dimension/Free.lean [hunk 18]
```diff
@@ -23,12 +23,55 @@ import Mathlib.LinearAlgebra.FreeModule.Finite.Basic
...
+variable (F : Type u) (K : Type v) (A : Type w)
+
+variable [Ring F] [Ring K] [AddCommGroup A]
+
+variable [Module F K] [Module K A] [Module F A] [IsScalarTower F K A]
+
+variable [StrongRankCondition F] [StrongRankCondition K] [Module.Free F K] [Module.Free K A]
+
+/-- Tower law: if `A` is a `K`-module and `K` is an extension of `F` then
+$\operatorname{rank}_F(A) = \operatorname{rank}_F(K) * \operatorname{rank}_K(A)$. -/
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Dimension/Free.lean:41]: Can you add a reference to `rank_mul_rank` below?

**Review by riccardobrasca — APPROVED** [review]
Is the description of the PR up-to-date with the current status?

Also I don't if this was made on purpose, but I don't see the modifications added with [23ceeb5](https://github.com/leanprover-community/mathlib4/pull/9046/commits/23ceeb5810d2f6bb7d6a897eb876328fae6781f0)

File: Mathlib/FieldTheory/PolynomialGaloisGroup.lean (hunk 16 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PolynomialGaloisGroup.lean:425]: Maybe we should create issue to track this problem of failing to find weaker instances from strong instances on subobjects, so we can refer to the issue here and elsewhere, which will make it easy to remove all these `letI/haveI`s once the issue is resolved?

File: Mathlib/FieldTheory/Galois.lean (hunk 17 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Galois.lean:423]: For this one, there's already a porting note. I simply extracted the two arguments in the original `rw` to standalone `letI`s.

File: Mathlib/LinearAlgebra/Dimension/Free.lean (hunk 18 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/Free.lean:41]: Like this?
```suggestion
$\operatorname{rank}_F(A) = \operatorname{rank}_F(K) * \operatorname{rank}_K(A)$.

The universe polymorphic version of `rank_mul_rank` below. -/
```

**Comment by alreadydone** [comment]
> Is the description of the PR up-to-date with the current status?

Yes, I recently edited the description.

> Also I don't if this was made on purpose, but I don't see the modifications added with [23ceeb5](https://github.com/leanprover-community/mathlib4/pull/9046/commits/23ceeb5810d2f6bb7d6a897eb876328fae6781f0)

I removed the division-ring specialized version, so only the Module.Free version remains. See [here](https://github.com/leanprover-community/mathlib4/pull/9046#discussion_r1444164388).

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
